US06121271
4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenol
To a solution of acetic acid 4-(9-bromo-2,3-dimethyl-naphtho[2, 3-b]thiophen-4-yl)-2,6-dimethyl-phenyl ester (6.5 g, 14.3 mmol) in tetrahydrofuran (240 mL) and methanol (80 mL) at room temperature was added dropwise aqueous potassium hydroxide (17.2 mL of a 1N solution, 17.2 mmol). After 4 h at room temperature the reaction mixture was placed in the freezer for 18 h. The reaction was removed from the freezer and allowed to stir at room temperature. More aqueous potassium hydroxide (41.5 nL of a 1N solution, 41.5 mmol), tetrahydrofuran (50 mL), and methanol (10 mL) were added. The mixture was diluted with water (500 mL), acidified with 1N aqueous solution of hydrochloric acid, and extracted with diethyl ether. The diethyl ether layer was washed twice with water (500 mL), and dried (MgSO4). Concentration under reduced pressure gave a residue which was adsorbed onto silica gel. Chromatography with petroleum ether:ethyl acetate (97:3, then 95:5) gave the title compound as a white foamy solid (5.5 g, 93%): NMR (CDC13) δ 8.41 (s, 1 H), 8.16 (d, 1 H), 7.64-7.54 (m, 2 H), 7.46-7.40 (m, 1 H), 6.89 (s, 2 H), 2.41 (s, 3 H), 2.23 (s, 6 H), 1.60 (s, 3 H). MS(-ESI), [M-H], 1 bromine isotope pattern, 409/411.

reactant | acetic acid 4-(9-bromo-2,3-dimethyl-naphtho[2, 3-b]thiophen-4-yl)-2,6-dimethyl-phenyl ester | 14.3 mmol, 6.5 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C(=C2)C)OC(C)=O)C | C24H21BrO2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
solvent | methanol | 80 mL | CO | CH4O
product | 4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenol | 5.5 g, 93% | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C(=C2)C)O)C | C22H19BrOS
